US07232900B2
2,2,2-Trichloroethoxycarbonyl chloride (200 g, 0.944 mol) is added portionwise to a solution of D-glucosamine hydrochloride (v, 200 g, 0.927 mol) and NaHCO3 (200 g, 2.4 mol) in water (4 L) in a 10 L 3-neck round-bottom flask and the resulting mixture is mechanically stirred overnight at room temperature. The white precipitate that forms is collected by filtration using a 2 L fritted funnel washed with ether (2 L), and dried at high vacuum for 3 hours to give 297 g (90%) of 2-deoxy-2-(2,2,2-trichloroethoxycarbonylamino)-D-glucose as a white solid (MW 354.57).

reactant | 2,2,2-Trichloroethoxycarbonyl chloride | 0.944 mol, 200 g | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | D-glucosamine hydrochloride | 0.927 mol, 200 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | NaHCO3 | 2.4 mol, 200 g | C(=O)(O)[O-].[Na+]
solvent | water | 4 L | O | H2O
product | 2-deoxy-2-(2,2,2-trichloroethoxycarbonylamino)-D-glucose | 297 g, 90% | ClC(COC(=O)N[C@@H](C=O)[C@@H](O)[C@H](O)[C@H](O)CO)(Cl)Cl | C9H14Cl3NO7
